US06313107B1
N-(4-Bromophenyl)-N-methyl-3-methyl-2-butenamide (Intermediate 54)
3,3-Dimethylacryloyl chloride (3 mL, 27 mmol) was added to a solution of 4-bromo-N-methyl-aniline (4.55 g, 25 mmol) in 150 mL of dichloromethane followed after 5 minutes by triethyl amine (5 mL, 33 mmol). After 2.5 h at ambient temperature, the reaction mixture was washed with water and the organic phase was dried over anhydrous sodium sulfate and evaporated in vacuo to afford the title product as a brown oil in quantitative yield.

reactant | 3,3-Dimethylacryloyl chloride | 27 mmol, 3 mL | CC(=CC(=O)Cl)C | C5H7ClO
reactant | 4-bromo-N-methyl-aniline | 25 mmol, 4.55 g | BrC1=CC=C(NC)C=C1 | C7H8BrN
reactant | triethyl amine | 33 mmol, 5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-(4-Bromophenyl)-N-methyl-3-methyl-2-butenamide | quantitative yield | BrC1=CC=C(C=C1)N(C(C=C(C)C)=O)C | C12H14BrNO
